US08383652B2
In an Emrys Optimizer microwave reactor, 0.8 g (2 mmol) of (Z)-3-(3-butoxy-4-iodophenyl)-2-ethoxyacrylic acid is dissolved in 10 mL of methanol and 1 mL of concentrated sulfuric acid and heated at 70° C. by microwave for 2 hours. After addition of water, the reaction medium is extracted with ethyl acetate. The organic phase is washed with water, dried over magnesium sulfate, filtered and evaporated. 0.5 g (61%) of methyl (Z)-3-(3-butoxy-4-iodophenyl)-2-ethoxyacrylate is obtained.

reactant | (Z)-3-(3-butoxy-4-iodophenyl)-2-ethoxyacrylic acid | 2 mmol, 0.8 g | C(CCC)OC=1C=C(C=CC1I)\C=C(\C(=O)O)/OCC | C15H19IO4
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
reactant | methanol | 10 mL | CO | CH4O
product | methyl (Z)-3-(3-butoxy-4-iodophenyl)-2-ethoxyacrylate | 0.5 g, 61% | C(CCC)OC=1C=C(C=CC1I)\C=C(\C(=O)OC)/OCC | C16H21IO4
